** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment2/assing1c.sch
**.subckt assing1c
Vin Vin GND 1.8
XM1 Vout Vin Vdd Vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.1995 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 Vout Vin GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
Vin1 Vdd GND 1.8
**** begin user architecture code


* Nested DC Sweep: Sweep Vin from 0 to 1.8, and loop Vin1 from 0.2 to 1.8
.dc Vin 0 1.8 0.01 Vin1 0.2 1.8 0.2

.control
run

* Plot v(Vout) vs v(Vin)
* Since this is a nested sweep, NGspice will automatically assign different
* colors to each 'Vin1' iteration.
plot v(Vout) vs v(Vin)

.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.end
