** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment2/assing1c.sch
**.subckt assing1c
Vin Vin GND 1.8
XM1 Vout Vin Vdd Vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.1995 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 Vout Vin GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
Vin1 Vdd GND 1.8
**** begin user architecture code


.control
let vds = 0.2
let index = 1
let N = 10
let imax = vector(N)
let vdscache = vector(N)

while index le N
    alter Vin1 $&vds
    dc Vin 0 $&vds 0.01

    let imax[index - 1] = abs(vecmin(dc{$&index}.i(Vin1)))
    let vdscache[index - 1] = vds

    let vds = vds + 0.2
    let index = index + 1
end

* Plot all VTC curves together (now they will correctly scale from 0.2V up to 2.0V!)
plot dc1.v(Vout) dc2.v(Vout) dc3.v(Vout) dc4.v(Vout) dc5.v(Vout) dc6.v(Vout) dc7.v(Vout) dc8.v(Vout) dc9.v(Vout) dc10.v(Vout)

* Plot all IDS curves together
plot dc1.i(Vin1) dc2.i(Vin1) dc3.i(Vin1) dc4.i(Vin1) dc5.i(Vin1) dc6.i(Vin1) dc7.i(Vin1) dc8.i(Vin1) dc9.i(Vin1) dc10.i(Vin1)

* Peak |Ids| per VDD (needed for Part 1(d))
print vdscache
print imax
.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.end
